US07462600B2
2-Bromoaniline (5.16 g, 30 mmol) dissolved in acetic acid and conc. sulfuric acid was treated with a solution of methyl vinyl ketone in acetic acid. The reaction mixture heated to 90° C. for 14 h. The cooled mixture was poured into water and basified with sodium hydroxide and extracted into EtOAc. The organics were dried over Na2SO4, and concentrated the purified by SGC (Combiflash 0-100% EtOAc: hexanes over 30 minutes) followed by recrystallization from hot hexanes furnished 4-methyl-8-bromoquinoline (2.3 g). 1H NMR (CDCl3) δ 8.92 (d, 1H), 8.08 (d,1H), 8.01 (d,1H), 7.45 (t,1H), 7.32 (d,1H), 2.71 (s, 3H).

reactant | 2-Bromoaniline | 30 mmol, 5.16 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-methyl-8-bromoquinoline | 2.3 g | CC1=CC=NC2=C(C=CC=C12)Br | C10H8BrN
